US04785103
Sodium borohydride (72 mg) was added to a mixture of 200 mg of 17α-acetoxy-6-chloro-1ξ-hydroxy-2-oxapregna-4,6-diene-3,20-dione, 80 mg of sodium hydrogen carbonate, 20 ml of methanol and 10 ml of water, and the mixture was stirred at room temperature for 30 minutes. Concentrated hydrochloric acid (about 0.4 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium hydrogen carbonate, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The crude product was purified by TLC [developing solvent: chloroform)] to give 120 mg of 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione.

reactant | Sodium borohydride | 72 mg | [BH4-].[Na+]
reactant | 17α-acetoxy-6-chloro-1ξ-hydroxy-2-oxapregna-4,6-diene-3,20-dione | 200 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(OC([C@]4(C)[C@H]3CC[C@]12C)O)=O)Cl | C22H27ClO6
reactant | sodium hydrogen carbonate | 80 mg | C(O)([O-])=O.[Na+]
reactant | hydrochloric acid | about 0.4 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 17α-acetoxy-6-chloro-2-oxapregna-4,6-diene-3,20-dione | 120 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(OC[C@]4(C)[C@H]3CC[C@]12C)=O)Cl | C22H27ClO5
